US04636560
(G) N-[N-(3-Amino-2-mercapto-4-phenylbutyl)-L-phenylalanyl]-L-leucine
A solution of N-[N-[(3S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-[[(4-methoxyphenyl)methyl]thio]-4-phenylbutyl]-L-phenylalanyl]-L-leucine, 1,1-dimethylethyl ester (780 mg, 1.06 mmol), anisole (1.0 ml) and trifluoroacetic acid (14 ml) was stirred at room temperature under argon. After 1 hour, the reaction was cooled to 0° C. and mercuric trifluoroacetate (497 mg, 1.1 eq) was added. The reaction was stirred for 1 hour at 0° C. and then concentrated to a red oil. The oil was triturated with ether/hexane and a nearly colorless solid was collected and washed with hexane. The solid was dissolved in degassed 80% aqueous acetic acid (20 ml) and hydrogen sulfide was bubbled through the solution for 30 minutes. The black reaction mixture was filtered through a pad of Celite followed by a Millipore filter (Teflon). The filtrate was concentrated to an amber oil. The oil was diluted with degassed double distilled water (20 ml) and 1N hydrochloric acid (3.2 ml, 1.5 eq) and the mixture filtered (Millipore, Metricel). The clear, colorless filtrate was lyophilized and relyophilized twice from water to yield the title compound as a fluffy, colorless solid: 490 mg (0.87 mmol); Rf =0.70 (silica gel, N-butanol:water:acetic acid, 4:1:1); Rf =0.75 (silica gel, chloroform:methanol:acetic acid, 4:1:1); fast atom bombardment mass spectrum: (M+H)+ m/e=458, (M-H)- m/e=456; melting point 123°-160° C.; [α]D =-12.8° (c=1.23, methanol). Analysis: C25H35N3O3S.1.8 mole HCl.2.2 mole H2O: C, 53.34; H, 7.38; N, 7.46; S, 5.69; SH 5.87; Cl, 11.33. Found: C, 53.06; H, 7.15; N, 7.12; S, 5.39; SH, 5.86; Cl, 11.08.

reactant | N-[N-[(3S)-3-[[(1,1-dimethylethoxy)carbonyl]amino]-2-[[(4-methoxyphenyl)methyl]thio]-4-phenylbutyl]-L-phenylalanyl]-L-leucine, 1,1-dimethylethyl ester | 1.06 mmol, 780 mg | CC(C)(OC(=O)N[C@H](C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)SCC1=CC=C(C=C1)OC)CC1=CC=CC=C1)C | C42H59N3O6S
reactant | anisole | 1.0 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 14 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrochloric acid | 1N, 3.2 ml, 1.5 eq | Cl | ClH
solvent | water | 20 ml | O | H2O
product | N-[N-(3-Amino-2-mercapto-4-phenylbutyl)-L-phenylalanyl]-L-leucine | NC(C(CN[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)O)S)CC1=CC=CC=C1 | C25H35N3O3S
